US07696234B2
[4-(6-Chloro-pyridin-3-ylmethoxy)-2-fluoro-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure C using (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 2-chloro-5-(chloromethyl)pyridine [CAS 70258-18-3]. MS (ES+) 418.3

reactant | (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21FN2O2
reactant | 2-chloro-5-(chloromethyl)pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
product | [4-(6-Chloro-pyridin-3-ylmethoxy)-2-fluoro-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | ClC1=CC=C(C=N1)COC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C22H25ClFN3O2
